US08030334B2
N-(5-Bromo-pyridin-3-ylmethyl)-methanesulfonamide and N-methyl-indoleboronic acid are processed according to the method described in Example 100 to give N-[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-methanesulfonamide. 1H NMR (400 MHz, MeOD) δ ppm 3.03 (s, 3H), 3.82 (s, 3H), 4.45 (s, 2H), 6.70 (s, 1H), 7.13 (t, J=7.5 Hz, 1 H), 7.23-7.31 (m, 1H), 7.48 (d, J=8.1 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 8.10 (t, J=2.0 Hz, 1H), 8.62 (d, J=2.0 Hz, 1H), 8.72 (d, J=2.0 Hz, 1H). HRMS (ESI) m/z 316.1108 [(M+H)+ Calcd for C16H18N3O2S: 316.1120].

reactant | N-(5-Bromo-pyridin-3-ylmethyl)-methanesulfonamide | BrC=1C=C(C=NC1)CNS(=O)(=O)C | C7H9BrN2O2S
reactant | N-methyl-indoleboronic acid | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
product | N-[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-methanesulfonamide | CN1C(=CC2=CC=CC=C12)C=1C=C(C=NC1)CNS(=O)(=O)C | C16H17N3O2S
